US09260425B2
A mixture of 240 mg (0.39 mmol) of methyl 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylate and 3 ml of 1 M aqueous solution of lithium hydroxide in 20 ml of methanol and 10 ml of tetrahydrofuran was stirred for 18 hours at room temperature and 2 hours at 60° C. The mixture was concentrated in vacuum, neutralized to pH 5 by careful addition of 1 N aqueous HCl and extracted with ethyl acetate. The organic extracts were washed with water, brine, dried over MgSO4 and concentrated to afford 150 mg (43%) of 4-(tert-Butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylic acid over two steps. ESI MS m/z 600.2 (M+1).

reactant | methyl 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylate | 0.39 mmol, 240 mg | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2)C(=O)OC | C33H39N7O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(tert-Butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylic acid | 150 mg, 43% | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2)C(=O)O | C32H37N7O5
